US08557809B2
(cis)-tert-Butyl 4-(benzyloxycarbonylamino)-3-fluoropiperidine-1-carboxylate (7.5 g, 21.3 mmol) was weighed into a 500 mL 1 neck round bottom and dissolved in 200 mL of DCM, followed by addition of TFA (16.4 mL, 213 mmol) and stirring at ambient temperature for 1 hour, at which time all bubbling had ceased and the reaction appeared complete by TLC. The crude reaction was concentrated in vacuo, followed by aqueous work-up with 2 N NaOH and DCM. The combined organics were dried over Na2SO4, filtered and concentrated in vacuo to afford benzyl (cis)-3-fluoropiperidin-4-ylcarbamate (4.25 g, 16.8 mmol, 79.2% yield) as a white solid.

reactant | (cis)-tert-Butyl 4-(benzyloxycarbonylamino)-3-fluoropiperidine-1-carboxylate | 21.3 mmol, 7.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)F | C18H25FN2O4
reactant | TFA | 213 mmol, 16.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | benzyl (cis)-3-fluoropiperidin-4-ylcarbamate | 16.8 mmol, 4.25 g, 79.2% yield | F[C@@H]1CNCC[C@@H]1NC(OCC1=CC=CC=C1)=O | C13H17FN2O2
